US04518596
8-Morpholino-4-(1-oxido-thiomorpholino)-2-piperazino-pyrimido-[5,4-d]-pyrimidine
This compound was prepared analogous to Example 118 from 2-chloro-8-morpholino-4-(1-oxido-thiomorpholino)-pyrimido-[5,4-d]-pyrimidine (m.p.: 232°-233° C.) and piperazine.

reactant | 2-chloro-8-morpholino-4-(1-oxido-thiomorpholino)-pyrimido-[5,4-d]-pyrimidine | ClC=1N=C(C2=C(N1)C(=NC=N2)N2CCOCC2)N2CCS(CC2)=O | C14H17ClN6O2S
reactant | piperazine | N1CCNCC1 | C4H10N2
product | 8-Morpholino-4-(1-oxido-thiomorpholino)-2-piperazino-pyrimido-[5,4-d]-pyrimidine | O1CCN(CC1)C1=NC=NC2=C1N=C(N=C2N2CCS(CC2)=O)N2CCNCC2 | C18H26N8O2S
